US08071592B2
1-(2-{4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinyl}ethyl)-5,7-difluoro-2(1H)-quinolinone Diformate
The title compound was prepared by the general method of Example 32(g) using 1-[2-(4-amino-1-piperidinyl)ethyl]-5,7-difluoro-2(1H)-quinolinone and 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde to give the desired product directly as the diformate salt (34 mg; 15%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-5,7-difluoro-2(1H)-quinolinone | NC1CCN(CC1)CCN1C(C=CC2=C(C=C(C=C12)F)F)=O | C16H19F2N3O
reactant | 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde | N1=NC(=CC2=C1OCCO2)C=O | C7H6N2O3
product | 1-(2-{4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinyl}ethyl)-5,7-difluoro-2(1H)-quinolinone Diformate | C(=O)O.C(=O)O.N1=NC(=CC2=C1OCCO2)CNC2CCN(CC2)CCN2C(C=CC1=C(C=C(C=C21)F)F)=O | InChI=1S/C23H25F2N5O3.2CH2O2/c24-15-11-19(25)18-1-2-22(31)30(20(18)12-15)8-7-29-5-3-16(4-6-29)26-14-17-13-21-23(28-27-17)33-10-9-32-21;2*2-1-3/h1-2,11-13,16,26H,3-10,14H2;2*1H,(H,2,3)
